US05892048
Under an atmosphere of nitrogen, to a solution of 1.5 of 5-(4-chlorobenzoyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H 1,2,4-triazole in diethl ether at -70° C. was added dropwise 12 ml of methylmagnesium bromide. After 1 hour, the reaction mixture was warmed to room temperature stirred overnight, Then 36 ml of a 2N aqueous solution of sulfuric acid was added to the solution under iced-cooling, the mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gelchromatography to afford 1.3 g of 5-(4-chloro-α-hydroxy-α-methylbenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl 1H-1,2,4-triazole. mp.198°-200° C.

reactant | 5-(4-chlorobenzoyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H 1,2,4-triazole | ClC1=CC=C(C(=O)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H10Cl2FN3O
reactant | methylmagnesium bromide | 12 ml | C[Mg]Br
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | diethl ether | C(C)OCC | C4H10O
product | 5-(4-chloro-α-hydroxy-α-methylbenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl 1H-1,2,4-triazole | 1.3 g | ClC1=CC=C(C(C)(O)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C17H14Cl2FN3O
